US07816522B2
(18b) 2-(4-t-butyldimethylsilanyloxy-3-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide
After adding 32 ml of a 20% aqueous solution of ammonium sulfide to a solution of 8.45 g of (4-t-butyldimethylsilanyloxy-3-methoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile in 300 ml of a methanol:THF=2:1 mixed solvent, the mixture was stirred at room temperature for 23 hours. Water was added to the reaction mixture and extraction was performed with ethyl acetate. After washing the organic layer with saturated brine, it was dried over anhydrous sodium sulfate. The desiccating agent was filtered off, and the filtrate was concentrated under reduced pressure to give the title compound (8.26 g) as a crude product.

reactant | ammonium sulfide | [NH4+]=S
reactant | (4-t-butyldimethylsilanyloxy-3-methoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | 8.45 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C(C#N)NC1=CC=C(C=C1)C1=NOC(=N1)C)OC | C24H30N4O3Si
reactant | THF | C1CCOC1 | C4H8O
reactant | Water | O | H2O
solvent | methanol | 300 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-t-butyldimethylsilanyloxy-3-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide | 8.26 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C(C(=S)N)NC1=CC=C(C=C1)C1=NOC(=N1)C)OC | C24H32N4O3SSi
